US07439232B2
Next, to a mixture of 3-[2-(trimethylsilyl)ethoxymethoxy]pyridine (23.0 g, 102 mmol) and tetrahydrofuran (400 ml), a 1.47 mol/L t-butyllithium n-pentane solution (80 ml, 118 mmol) was added dropwise at −70° C. over 25 minutes. After stirring at −70° C. for 1 hour, an ether solution of 4-ethylbenzaldehyde (17.7 g, 132 mmol) was added over 25 minutes. The reaction mixture was stirred at −70° C. for 2 hours and at room temperature for 2 hours. After warming to room temperature, the reaction mixture was poured into saturated aqueous ammonium chloride and extracted with ether. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:50) to give (4-ethylphenyl)-[3-[2-(trimethylsilyl)ethoxymethoxy]pyridin-4-yl]-methanol (20.1 g, 55%) as a light-yellow powder.

reactant | 3-[2-(trimethylsilyl)ethoxymethoxy]pyridine | 102 mmol, 23.0 g | C[Si](CCOCOC=1C=NC=CC1)(C)C | C11H19NO2Si
reactant | t-butyllithium n-pentane | 118 mmol, 1.47 mol/L, 80 ml | CCCCC.C(C)(C)(C)[Li]
reactant | 4-ethylbenzaldehyde | 132 mmol, 17.7 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | (4-ethylphenyl)-[3-[2-(trimethylsilyl)ethoxymethoxy]pyridin-4-yl]-methanol | 20.1 g, 55% | C(C)C1=CC=C(C=C1)C(O)C1=C(C=NC=C1)OCOCC[Si](C)(C)C | C20H29NO3Si
